Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transient Aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of HTN, prostate Ca ___ yrs ago), recent h/o of
GI bleed (___) who drove himself to the ED after having a ___
minute episode of wording finding difficultly after giving a 3
hour lecture at ___ where he teaches Meteorology. He states
that he has had several weeks of these symptoms ___ episodes)
where he initially is unable to think of the word he is trying 
to
say then when he thinks of the word and speaks it he feels like
it sounds strange as if he is not making the sounds properly.
Today, at the end of his lecture (11am), he tried to say the 
word
'adiabatic' but felt he was saying it strangely. He also was
having issues finding the words that he wanted to say (the
students were asking him questions about the lecture). He
realized he was having difficulty so he ended the lecture and
walked to his car. Once in his car, he called his daughter
(11:18am) and described the episode. At that point, he was no
longer having issues. He drove himself to a nearby ___ urgent
care who immediately transferred him to ___ for further
management. 

Of note, the patient visited ___ in ___ were he had an
episode of BRBPR and was found to be severely anemic. He refused
blood transfusion at that time and subsequently had a syncopal
episode where he fell on his left shoulder and head. He had no
LOC or residual neurological effects from the fall (no 
headaches,
balance issues etc).

On neuro ROS, (+) transient episodes of word finding 
difficulties
(+) transient episodes of dysarthria (+) sensation of pressure
around his right eye. The pt denies headache, loss of vision,
blurred vision, diplopia, dysphagia, vertigo, tinnitus or 
hearing
difficulty. Denies focal weakness, numbness, parasthesiae. No
bowel or bladder incontinence or retention. Denies difficulty
with gait.
 
On general review of systems, (+) sob, used to smoke a pipe for
many years. The pt denies recent fever or chills.  No night
sweats or recent weight loss or gain. Denies cough.  Denies 
chest
pain or tightness, palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or
myalgias. Denies rash.

 
Past Medical History:
prostate ca ___ years ago)
HTN
COPD?
recent GI bleed (BRBPR c/b anemia)
right knee replacement (___)
bph

 
Social History:
___
Family History:
Sister with ___ and migraines. Mother died at ___ from
CHF. Father died at ___ from unknown causes. Children are 
healthy.

 
Physical Exam:
Admission Exam:
- Vitals: 97.2 62 172/78 16 98% RA
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity
- Pulmonary: CTABL
- Cardiac: RRR, no murmurs
- Abdomen: soft, nontender, nondistended
- Extremities: mild edema to the ankles
- Skin: bruise on right arm. no rashes or lesions noted.
 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects. Able to read
without difficulty. Speech was not dysarthric. Able to follow
both midline and appendicular commands. Good knowledge of 
current
events. There was no evidence of apraxia or neglect.
- Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: left eye unable to bury sclera to the left on left
gaze, appeared closer to midline on primary gaze, did not 
correct
with single eye covered, patient repeatedly denied double vision
in all horizontal and vertical directions. Per his daughter at
the bedside, she had never noticed the eye deviation previously.
Vertical EOMI. No nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
- Motor: Normal bulk and tone throughout. Left pronation with no
drift. No adventitious movements such as tremor or asterixis
noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  4    4+  ___  4+ ___    5- 5     5     5   5
R  5    ___   ___ 5   5    4  5     5     5   5
- Sensory: decreased sensation to temperature to ankle
bilaterally, decreased sensation to vibration on on right
ankle/toe and left toe. Decreased sensation to proprioception on
right toe. No deficits to light touch or pinprick. No extinction
to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was extensor bilaterally.
- Coordination: No intention tremor or dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
- Gait: Good initiation. wide-based, with decreased arm swing.
multiple steps required for turning. Unable to stand on heels or
toes without losing balance (fell to both sides). Romberg 
absent.
able to maintain balance with gentle pushes to front and back
(with eyes closed).
 

DISCHARGE EXAMINATION:
Vitals: 97.7  BP 165/71  HR 65  RR 18  96% RA
Unchanged from prior with the exception of an improved strength 
examination, with only deficits of note associated with pain or 
arthritic changes (shoulder, knee).
 
Pertinent Results:
___ 07:15PM   CK(CPK)-78
___ 07:15PM   CK-MB-3 cTropnT-<0.01
___ 07:15PM   CHOLEST-132
___ 07:15PM   VIT B12-437
___ 07:15PM   TRIGLYCER-50 HDL CHOL-49 CHOL/HDL-2.7 
LDL(CALC)-73
___ 07:15PM   TSH-3.7
___ 04:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 02:35PM   LACTATE-1.1
___ 02:15PM   GLUCOSE-95 UREA N-26* CREAT-1.3* SODIUM-142 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-33* ANION GAP-14
___ 02:15PM   estGFR-Using this
___ 02:15PM   ALT(SGPT)-13 AST(SGOT)-21 ALK PHOS-78 TOT 
BILI-0.4
___ 02:15PM   LIPASE-33
___ 02:15PM   ALBUMIN-4.3 CALCIUM-9.5 PHOSPHATE-4.0 
MAGNESIUM-1.8
___ 02:15PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:15PM   WBC-5.7 RBC-3.95* HGB-11.5* HCT-36.3* MCV-92 
MCH-29.2 MCHC-31.8 RDW-15.4
___ 02:15PM   NEUTS-61.6 ___ MONOS-8.4 EOS-1.7 
BASOS-1.1
___ 02:15PM   PLT COUNT-111*
___ 02:15PM   ___ PTT-31.0 ___

___ MRA Head/Neck, MRI IMPRESSION: No areas of ischemia, 
hemorrhage, or mass lesion.  Vessels intact with no flow 
limiting stenosis or occlusion.

___ EEG: Normal study with no areas of epileptogenesis or 
other focal abnormality.

 
Brief Hospital Course:
Mr. ___ is an ___ with PMHx of HTN, prostate Ca ___ yrs 
ago), recent h/o of GI bleed (___) drove himself to the ED 
after having a ___ minute episode of wording finding difficultly 
after giving a 3 hour lecture at ___ where he teaches 
___. It seems he has had 2 episodes of word finding 
difficulty in the last several months. Differential includes 
TIAs, Strokes, Amyloid Angiopathy, Seizures, Migraines. On exam, 
he has a sixth nerve palsy which is likely chronic since he 
doesn't complain of double vision. Given the acute onset, short 
duration of his symptoms with return to baseline, evidence of 
small vessel ischemic disease on MR and recent history of 
elevated blood pressures, TIA is the likely cause of his 
symptoms. CT and MR did not show signs of intracranial bleeding, 
mass effect, ischemia or large vessel stenosis. A seizure was 
also considered as a possible cause of his symptoms, however no 
seizure activity or epileptiform discharges were seen on EEG. 
Amyloid angiopathy is also a potential cause of his symptoms, 
though there is no evidence of microbleeds on imaging. Lastly, 
his symptoms could also be due to migraines, however he has no 
history of migraines or chronic headaches. 

Final diagnosis: TIA

# Aphasia:
- No further episodes of aphasia were noted in the examination.  
MRI/A demonstrated no stroke, or vascular anomaly.  EEG 
demonstrated no focal abnormality or area of epileptogenesis.  

# Hypertension:
BP autoregulated on ___ dose of atenolol in the 160-180 range, 
with no significant improvement on addition of HCTZ and full 
dose atenolol.  We added Norvasc 5mg daily, and a one-time dose 
of Hydralazine. Should follow up with PCP office to recheck BP 
day after discharge.

# Vascular risk factors:
Lipids were well controlled with LDL in ___ and HDL in high ___. 
 No medications were started while inpatient. HbA1c 5.1.  
Telemetry revealed no concerning ectopy.

# TRANSITIONS OF CARE:
- Added Norvasc 5mg daily
- ___ follow up with Dr. ___
- ___ follow up with PCP regarding BP check and management
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Leuprolide Acetate IM Frequency is Unknown 
4. Tamsulosin 0.4 mg PO HS 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 

Also please continue your other home medications: 
- Leuprolide injection (every four months)
- Tamsulosin daily
- Calcium Carbonate BID
- Vitamin d3 BID

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- Broca's Aphasia 
- TIA
 
Secondary: 
- Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were evaluated at ___ for 
your symptoms of word-finding difficulty which has occured twice 
in the past few weeks.  We performed a CT scan as well as MRI 
studies of your blood vessels and brain which demonstrated no 
stroke, bleeding, or mass lesion concerning for tumor.  We also 
performed an EEG which demonstrated no seizure activity as a 
cause for your word finding difficulty.  

As each of these episodes occured after you had delivered a 
three-hour lecture, it is quite possible that these episodes 
were brought on by fatigue.  We also stratified your 
cerebrovascular risk factors with blood work which showed 
excellent control of your cholesterol.  We also performed a test 
of your blood sugar control which can be followed upon with your 
neurologist Dr. ___ as an outpatient.  

We did note that even with your blood pressure medications 
restarted, you still had elevated blood pressures which were in 
the 180-200 range.  For this, we started a new medication, 
Norvasc (amlodipine) at a low dose for better BP control. You 
should follow up with your PCP's office tomorrow (___) to 
have your blood pressure checked. You should also make an 
appointment with them to have your blood pressure medications 
re-evaluated. 
 
Followup Instructions:
___